US04243678
5.4 g of 5-[N-(biphenyl-2-yl)amino]valeric acid is dissolved in 40 ml of 0.2 N caustic soda solution. Into the resulting clear solution (while vigorously stirring and constantly controlling the pH) 3.5 g of p-chlorobenzoyl chloride is added, drop by drop, while concurrently adding dilute caustic soda solution in order to maintain the pH at between 7 and 8. After the addition of acid chloride is complete, the solution is stirred for a further 30 minutes at pH 8 and then acidified to pH 3 with dilute hydrochloric acid. The precipitate, which is oily at first crystallizes after a time. It is filtered off and recrystallized from isopropyl alcohol to obtain 7.6 g (93% of thoery) of 5-[p-chloro-N-(biphenyl-2-yl)benzamido]valeric acid, MP 170° to 173°, which is identical with the compound obtained by the procedure of Example 53.

reactant | 5-[N-(biphenyl-2-yl)amino]valeric acid | 5.4 g | C1(=C(C=CC=C1)NCCCCC(=O)O)C1=CC=CC=C1 | C17H19NO2
reactant | p-chlorobenzoyl chloride | 3.5 g | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
reactant | hydrochloric acid | Cl | ClH
solvent | caustic soda | 0.2 N, 40 ml | [OH-].[Na+]
product | 5-[p-chloro-N-(biphenyl-2-yl)benzamido]valeric acid | ClC1=CC=C(C(=O)N(C2=C(C=CC=C2)C2=CC=CC=C2)CCCCC(=O)O)C=C1 | C24H22ClNO3
